US05312828
(E)-3-[2-n-Butyl-1-{(4-cyanophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoic Acid
The title compound is prepared by the procedure of Example 27, using 2-n-butyl-[(4-cyanophenyl)methyl]imidazole-5-aldehyde, prepared by the method of Example 42 describing the preparation of 2-n-butyl-1-[(4-carboethoxy-2-chlorophenyl)methyl]imidazole-5-aldehyde, and methyl 3-phenylpropanoate, except, instead of basic hydrolysis of the ester with sodium hydroxide, potassium carbonate hydrolysis was employed.

reactant | 2-n-butyl-[(4-cyanophenyl)methyl]imidazole-5-aldehyde | C(CCC)C=1NC(=C(N1)CC1=CC=C(C=C1)C#N)C=O | C16H17N3O
reactant | 2-n-butyl-1-[(4-carboethoxy-2-chlorophenyl)methyl]imidazole-5-aldehyde | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=C(C=C1)C(=O)OCC)Cl | C18H21ClN2O3
reactant | methyl 3-phenylpropanoate | C1(=CC=CC=C1)CCC(=O)OC | C10H12O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (E)-3-[2-n-Butyl-1-{(4-cyanophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoic Acid | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)O)\CC1=CC=CC=C1)CC1=CC=C(C=C1)C#N | C25H25N3O2
